US06613786B2
Step 2: Preparation of (5-bromothiophen-2-yl)-oxo-acetic acid
(5-Bromothiophen-2-yl)-oxo-acetic acid ethyl ester (45.6 g, 173 mmol) was dissolved in a mixture of 100 ml THF, 100 ml methanol, and 300 ml water, then treated with 10 N NaOH (26 ml, 260 mmol) at room temperature for 20 hours. Volatile solvents were removed by rotary evaporation. The residue was dissolved in 2 L water and extracted with diethyl ether (250 ml). The aqueous layer was acidified to pH 1 with 6 N HCl, and extracted three times with diethyl ether (3×300 ml). The combined diethyl ether extracts were dried over Na2SO4 and concentrated under vacuum to yield Preparation 1a (38.7 g, 95%). The product was then recrystallized from diethyl ether. m.p. 119-120° C.; MS (M−H)−: 235.1; 1H NMR (300 MHz, CDCl3) δ9.00 (1H, br s), 8.15 (1H, d, J=4.2 Hz), 7.16 (1H, d, J=4.2 Hz). 13C NMR (75 MHz, CDCl3) δ173.80, 159.58, 140.14, 137.17, 132.58, 130.48. IR (KBr) 3326, 3124, 1756, 1634, 1415, 1363, 1308, 1253 cm−1.

reactant | (5-Bromothiophen-2-yl)-oxo-acetic acid ethyl ester | 173 mmol, 45.6 g | C(C)OC(C(=O)C=1SC(=CC1)Br)=O | C8H7BrO3S
reactant | NaOH | 260 mmol, 10 N, 26 ml | [OH-].[Na+]
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | methanol | 100 ml | CO | CH4O
solvent | water | 300 ml | O | H2O
product | (5-bromothiophen-2-yl)-oxo-acetic acid | BrC1=CC=C(S1)C(C(=O)O)=O | C6H3BrO3S
